US08278311B2
3,4,5a,6,7,8,9,9a-octahydrodibenzo[b,d]furan-1(2H)-one
A solution of cyclohexanone (5.28 mL, 50.9 mmol), cyclohexane-1,3-dione (5.89 g, 50.9 mmol), and p-toluenesulfonic acid monohydrate (0.485 g, 2.55 mmol) in xylene (600 mL) was heated at reflux under a Dean Stark trap for 16 hours. The mixture was filtered and concentrated under reduced pressure. The residue was chromatographed on silica gel eluting with 0-30% ethyl acetate in hexanes to provide the title compound: 1H NMR (CDCl3) δ 1.21-1.31 (m, 2H), 1.43-1.57 (m, 3H), 1.72-1.83 (m, 1H), 1.96-2.08 (m, 4H), 2.33 (t, 2H), 2.41 (t, 2H), 2.96-3.06 (m, 1H), 4.61-4.69 (m, 1H); MS (DCl/NH3) m/z 193 (M+H)30.

reactant | cyclohexanone | 50.9 mmol, 5.28 mL | C1(CCCCC1)=O | C6H10O
reactant | cyclohexane-1,3-dione | 50.9 mmol, 5.89 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | p-toluenesulfonic acid monohydrate | 2.55 mmol, 0.485 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | xylene | 600 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 3,4,5a,6,7,8,9,9a-octahydrodibenzo[b,d]furan-1(2H)-one | C1(CCCC=2OC3C(C21)CCCC3)=O | C12H16O2
